US07498356B2
Under a nitrogen atmosphere, a solution of [3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-yl]-methanol (0.257 g, 0.65 mmol), 2-tert-butoxycarbonylamino-3-mercapto-propionic acid methyl ester (0.304 g, 1.29 mmol), 1,1′-(azodicarbonyl)dipiperidine (0.343 g, 1.36 mmol), and imidazole (0.92 g, 1.36 mmol) in dichloromethane (10 mL, 0.07 M) was treated with trimethylphosphine (1 M in toluene; 1.4 mL, 1.36 mmol) in a dropwise manner at room temperature. After stirring for 1 hour, an equal volume of heptane was added and the resulting precipitate was removed by filtration. The filtrate was concentrated and purified by flash chromatography (20% ethyl acetate in heptane) to give 2-tert-butoxycarbonylamino-3-[3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-ylmethylsulfanyl]-propionic acid methyl ester as a white solid.

reactant | [3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-yl]-methanol | 0.65 mmol, 0.257 g | FC(C1=CC=C2CCCN(C2=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)CO)(F)F | C24H22F3NO
reactant | 2-tert-butoxycarbonylamino-3-mercapto-propionic acid methyl ester | 1.29 mmol, 0.304 g | COC(C(CS)NC(=O)OC(C)(C)C)=O | C9H17NO4S
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.36 mmol, 0.343 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | imidazole | 1.36 mmol, 0.92 g | N1C=NC=C1 | C3H4N2
reactant | trimethylphosphine | 1.36 mmol, 1 M, 1.4 mL | CP(C)C | C3H9P
solvent | dichloromethane | 0.07 M, 10 mL | ClCCl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
product | 2-tert-butoxycarbonylamino-3-[3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-ylmethylsulfanyl]-propionic acid methyl ester | COC(C(CSCC1=CC=C(C=C1)C1=CC(=CC=C1)CN1CCCC2=CC=C(C=C12)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C33H37F3N2O4S
